US07662825B2
N-(3-Methoxy-5-methyl-2-pyrazinyl)benzenesulphonamide
Prepared by the method of Example 1 using 3-methoxy-5-methyl-2-pyrazinamine and benzenesulphonyl chloride

reactant | 3-methoxy-5-methyl-2-pyrazinamine | COC=1C(=NC=C(N1)C)N | C6H9N3O
reactant | benzenesulphonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-(3-Methoxy-5-methyl-2-pyrazinyl)benzenesulphonamide | COC=1C(=NC=C(N1)C)NS(=O)(=O)C1=CC=CC=C1 | C12H13N3O3S
